US06265349B1
Preparation of 3-(2-carboxy-7-chloro-5-fluorobenzofuran-4-yl)-1-methyl-6-trifluoromethyl-2-(1H)-pyridone (Compound No. 4-26)
0.37 g (0.99 mmol) of 3-(7-chloro-5-fluoro-2-formylbenzofuran-4-yl)-1-methyl-6-trifluoromethyl-2-(1H)-pyridone was dissolved in 20 ml of acetone, and a Jones reagent (CrO3—H2SO4) was added thereto at −20° C. After stirring at −20° C. for 2 hours, the mixture was poured into water and extracted with ethyl acetate. An aqueous sodium hydroxide solution was added to make the extract alkaline, and the aqueous layer was washed with ethyl acetate and acidified by an addition of hydrochloric acid and then extracted with ethyl acetate. After washing with water, the organic layer was dried over anhydrous magnesium sulfate. Ethyl acetate was distilled off under reduced pressure. Then, the obtained crude crystals were washed with diisopropyl ether to obtain 0.29 g (yield: 75%) of the desired products Melting point: 233-235° C. 1H-NMR (300 MHz, CDCl3) δ value: 3.79(3H,s), 6.87(1H,d), 7.38(1H,d), 7.47(1H,s), 7.61(1H,d)ppm.

reactant | 3-(7-chloro-5-fluoro-2-formylbenzofuran-4-yl)-1-methyl-6-trifluoromethyl-2-(1H)-pyridone | 0.99 mmol, 0.37 g | ClC1=CC(=C(C=2C=C(OC21)C=O)C=2C(N(C(=CC2)C(F)(F)F)C)=O)F | C16H8ClF4NO3
reactant | Jones reagent | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | water | O | H2O
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 3-(2-carboxy-7-chloro-5-fluorobenzofuran-4-yl)-1-methyl-6-trifluoromethyl-2-(1H)-pyridone | 0.29 g, yield: 75% | C(=O)(O)C=1OC2=C(C1)C(=C(C=C2Cl)F)C=2C(N(C(=CC2)C(F)(F)F)C)=O | C16H8ClF4NO4
